US08492388B2
To a stirred solution of (1-methyl-1H-tetrazol-5-yl)[3-(trifluoromethoxy)phenyl]methanone (5.12 g, 16.2 mmol) in dry pyridine (25 mL) was added hydroxylamine hydrochloride (2.81 g, 40.4 mmol). The mixture was stirred at 70° C. for 3 h, then left to stand overnight. After concentration of the reaction mixture in vacuo, the residue was diluted with ethyl acetate (100 mL) and washed with water (50 mL). The aqueous layer was extracted with ethyl acetate (50 mL), the combined organic layers dried (MgSO4), concentrated in vacuo and dissolved in toluene. A crystalline precipitate appeared, which was filtered off to afford N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-[3-(trifluoromethoxy)phenyl]methanimine as a white solid [4.33 g, yield 92%; HPLC/MS:m/z=288 (M+H); log P(HCOOH)=2.37].

reactant | (1-methyl-1H-tetrazol-5-yl)[3-(trifluoromethoxy)phenyl]methanone | 16.2 mmol, 5.12 g | CN1N=NN=C1C(=O)C1=CC(=CC=C1)OC(F)(F)F | C10H7F3N4O2
reactant | hydroxylamine hydrochloride | 40.4 mmol, 2.81 g | Cl.NO
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-[3-(trifluoromethoxy)phenyl]methanimine | yield 92% | ON=C(C1=CC(=CC=C1)OC(F)(F)F)C1=NN=NN1C | C10H8F3N5O2
